US07538123B2
(1) 4′-Methoxy-2′-(3-methyl-2-butenyl)oxyacetophenone
20.7 g of potassium carbonate and 23.2 ml of 1-bromo-3-methyl-2-butene were successively added to 300 ml of acetone containing 25 g of 2′-hydroxy-4′-methoxyacetophenone. The reaction solution was then heated to reflux. Approximately 6 hours later, 4.14 g of potassium carbonate and 4.63 ml of 1-bromo-3-methyl-2-butene were further added thereto, and the obtained mixture was heated to reflux. Approximately 34 hours later, the reaction solution was stood to cool, and then, it was filtered through celite. The filtrate was concentrated under a reduced pressure, and the residue was then purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain the subject compound. The reaction was further carried out using 2′-hydroxy-4′-methoxyacetophenone (25 g×2 times) under the above described conditions. The total amount of the subject compounds was 98.7 g.

reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-methyl-2-butene | 23.2 ml | BrCC=C(C)C | C5H9Br
reactant | 2′-hydroxy-4′-methoxyacetophenone | OC1=C(C=CC(=C1)OC)C(C)=O | C9H10O3
reactant | potassium carbonate | 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-methyl-2-butene | 4.63 ml | BrCC=C(C)C | C5H9Br
reactant | 2′-hydroxy-4′-methoxyacetophenone | 25 g | OC1=C(C=CC(=C1)OC)C(C)=O | C9H10O3
solvent | acetone | 300 ml, 25 g | CC(=O)C | C3H6O
product | 4′-Methoxy-2′-(3-methyl-2-butenyl)oxyacetophenone | COC1=CC(=C(C=C1)C(C)=O)OCC=C(C)C | C14H18O3
